US07893088B2
A 2M solution of lithium aluminium hydride in THF (4.6 ml) was added dropwise to a solution of cis-(4-hydroxycyclohexyl)carbamic acid tert-butyl ester (1 g, 4.6 mmol) in THF (5 ml) stirring at ambient temperature. After stirring for 30 minutes the mixture was heated at reflux for 16 hours. After allowing to cool, water (0.35 ml) followed by 2N sodium hydroxide (0.35 ml) and water (0.35 ml) were carefully added. The white precipitate was removed by filtration and the filtrate concentrated under reduced pressure. The remaining aqueous was diluted with water and neutralised by dropwise addition of 4N hydrochloric acid. The aqueous was slowly passed through an ion exchange column (SCX, 10 g) and after washing with methanol the product was eluted with 2M ammonia in Methanol solution. Fractions combined and concentrated under reduced pressure to afford cis-4-methylaminocyclohexanol (455 mg, 76%).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | cis-(4-hydroxycyclohexyl)carbamic acid tert-butyl ester | 4.6 mmol, 1 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)O)=O | C11H21NO3
reactant | water | 0.35 ml | O | H2O
reactant | sodium hydroxide | 2N, 0.35 ml | [OH-].[Na+]
reactant | water | 0.35 ml | O | H2O
solvent | THF | 4.6 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | cis-4-methylaminocyclohexanol | 455 mg, 76% | CN[C@H]1CC[C@H](CC1)O | C7H15NO
